US07947690B2
A mixture of 503 mg of 1-tert-butoxycarbonyl-4-[2-(4-chloro-2,5-difluorophenyl)-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperazine, 2 ml of MeOH, and 6 ml of 4M HCl-dioxane solution was stirred at ambient temperature for 1 hour. To the reaction mixture were added 15 ml of 1M aqueous sodium hydroxide and 2 ml of diethyl ether, and the precipitate was collected by filtration, washed with water and then diethyl ether, and dried under reduced pressure. The solid obtained was dissolved in 5 ml of MeOH, here was added 2 ml of 4M HCl-dioxane solution, and the solvent was then distilled off under reduced pressure. The residue obtained was washed with EtOH-EtOAc and dried under reduced pressure to yield 423 mg of 2-(4-chloro-2,5-difluorophenyl)-4-piperazin-1-yl-5,7-dihydrothieno[3,4-d]pyrimidine dihydrochloride.

reactant | 1-tert-butoxycarbonyl-4-[2-(4-chloro-2,5-difluorophenyl)-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperazine | 503 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)F)CSC2 | C21H23ClF2N4O2S
reactant | HCl dioxane | 4M, 6 ml | Cl.O1CCOCC1
reactant | sodium hydroxide | 1M, 15 ml | [OH-].[Na+]
reactant | diethyl ether | 2 ml | C(C)OCC | C4H10O
reactant | HCl dioxane | 4M, 2 ml | Cl.O1CCOCC1
solvent | MeOH | 5 ml | CO | CH4O
solvent | MeOH | 2 ml | CO | CH4O
product | 2-(4-chloro-2,5-difluorophenyl)-4-piperazin-1-yl-5,7-dihydrothieno[3,4-d]pyrimidine dihydrochloride | 423 mg | Cl.Cl.ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)CSC2)N2CCNCC2)F | InChI=1S/C16H15ClF2N4S.2ClH/c17-11-6-12(18)9(5-13(11)19)15-21-14-8-24-7-10(14)16(22-15)23-3-1-20-2-4-23;;/h5-6,20H,1-4,7-8H2;2*1H
